US04894385
Methyl 4-[1-(2-methoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
685 mg of triphenylphosphine were added, at a temperature between 0° and 5° C., to a solution of 500 mg of diethyl azodicarboxylate in 6.17 ml of tetrahydrofuran, and the mixture was stirred for 20 minutes. A solution of 570 mg of 1-[2-hydroxy-2-(2-methoxyphenyl)ethyl]imidazole in 7 ml of tetrahydrofuran was added to the resulting solution at a temperature between -10° and -15° C., and the mixture was stirred for 20 minutes. A solution of 439 mg of methyl 4-mercaptobenzoate in 8.4 ml of tetrahydrofuran was added at the same temperature to the mixture, which was then stirred at between 0° and 5° C. for 30 minutes, and then at room temperature for 25 minutes. A saturated aqueous solution of sodium chloride was added, and the reaction mixture was extracted with ethyl acetate. The extract was washed with water and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residue was purified by the same method as described in Example 13, to give 223 mg of the title compound. This compound was identical with that obtained as described in Example 9 in its infrared absorption spectrum and nuclear magnetic resonance spectrum.

reactant | triphenylphosphine | 685 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 500 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-[2-hydroxy-2-(2-methoxyphenyl)ethyl]imidazole | 570 mg | OC(CN1C=NC=C1)C1=C(C=CC=C1)OC | C12H14N2O2
reactant | methyl 4-mercaptobenzoate | 439 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 6.17 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.4 ml | O1CCCC1 | C4H8O
product | Methyl 4-[1-(2-methoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 223 mg | COC1=C(C=CC=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C20H20N2O3S
